US04202832
Preparation of 3-carbamoylpropyl(p-chlorobenzyl)dithiocarbamate
29.2 G. of 3-cyanopropyl(p-chlorobenzyl)dithiocarbamate were suspended in 150 ml. of concentrated hydrochloric acid and stirred at room temperature for 2 hours. The mixture was diluted with water and extracted with ethyl acetate. After washing, drying and concentration of the ethyl acetate phases, 18.1 g. of 3-carbamoylpropyl)p-chlorobenzyl)dithiocarbamate were crystallized from ethyl acetate/diisopropyl ether; melting point 123°-125° C.

reactant | 3-cyanopropyl(p-chlorobenzyl)dithiocarbamate | C(#N)CCCSC(NCC1=CC=C(C=C1)Cl)=S | C12H13ClN2S2
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
product | 3-carbamoylpropyl(p-chlorobenzyl)dithiocarbamate | C(N)(=O)CCCSC(NCC1=CC=C(C=C1)Cl)=S | C12H15ClN2OS2
